US08664257B2
5-(2-Cyano-benzyloxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid
1-(2-Fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylic acid methyl ester (200 mg, 0.847 mmol) were dissolved in 5 ml of DMF and cesium carbonate (552 mg, 1.7 mmol) and 2-bromomethyl-benzonitrile (166 mg, 0.85 mmol) were added. The mixture was stirred for 5 h at 60° C., filtrated and the solvent was removed in vacuo. The obtained residue of crude 5-(2-cyano-benzyloxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid methyl ester (235 mg, 79%) was dissolved in a mixture of THF, MOH and water (3 ml each), lithium hydroxide (64.1 mg, 2.7 mmol) was added, and the mixture was stirred overnight at room temperature. After evaporation of the solvent the residue was subjected to column chromatography (silica gel, DCM/MOH 9:1) to give 195 mg (86%) of the title compound.

reactant | 1-(2-Fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylic acid methyl ester | 0.847 mmol, 200 mg | COC(=O)C1=NN(C(=C1)O)C1=C(C=CC=C1)F | C11H9FN2O3
reactant | cesium carbonate | 1.7 mmol, 552 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromomethyl-benzonitrile | 0.85 mmol, 166 mg | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
reactant | 5-(2-cyano-benzyloxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid methyl ester | 235 mg | COC(=O)C1=NN(C(=C1)OCC1=C(C=CC=C1)C#N)C1=C(C=CC=C1)F | C19H14FN3O3
reactant | lithium hydroxide | 2.7 mmol, 64.1 mg | [OH-].[Li+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | 5-(2-Cyano-benzyloxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid | 195 mg, 86% | C(#N)C1=C(COC2=CC(=NN2C2=C(C=CC=C2)F)C(=O)O)C=CC=C1 | C18H12FN3O3
